Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
Placement of a peripherally inserted central catheter (PICC)
Fluid drainage of the gallbladder fossa

 
History of Present Illness:
___ yo m w/ remote hx o bladder cancer, recent hx of gallbladder 
cancer s/p CCY and partial liver resection ___, recent admit 
from ___ to ___nd dynamic ECG changes, p/w 
fever, SOB, and weakness.  Recent admit pt had cardiac cath 
which demonstrated diffuse disease, but no significant stenosis 
to intervene upon.  Noted to have pansensitive klebsiella UTI; 
given 7 d course of cipro per d/c summary.  Unclear if pt took 
correctly, as he reports taking ___nd finishing 2 
days ago.  Pt felling well until yesterday evening when noted 
burping; this has been aginal equivalent in past.  Burping went 
away with water, but also noticed fatigue, SOB, and chills.  
Came in today to get first dose of gemzar when he reported this 
sx, thus was directly admitted.  Had been on zeloda but recently 
stopped due to chest pain; last dose a little over 1 week ago 
per patient.  He denies CP, abd pain, diarrhea, or other 
complaints.  His sx are all improved, although he is still very 
fatigued.  In clinic, labs checked notable for neg TnT and CK.  
CXR checked and concerning for increased interstitial opacities 
R > L likely PNA.  Of note, sister was recently with him and had 
URI sx. 
 
Past Medical History:
Diffuse coronary artery disease
Hypercholesterolemia
Glucose intolerance
Hypertension
Bell's palsy
Remote hx bladder ca s/p ileal conduit.
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___
Gout
Glaucoma
Osteopenia
 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
- There is no family history of premature coronary artery 
disease or sudden death. 
 
Physical Exam:
GEN:  Pleasant, NAD.  Pt at times appeared to be breathing fast, 
although denied difficulty.
VS:  101.1, 118/68, 82, 20, 96% RA
HEENT:  No OP erythema or exudate.
CV:  RRR.  II/VI SEM.
PULM:  Clear bilaterally.
ABD:  +BS.  Incision c/d/i.  Ostomy with yellow drainage. NTND.
Ext:  No c/c/e.
 
Pertinent Results:
Pertinent Labs
___ 02:57PM BLOOD WBC-19.0*# RBC-3.85* Hgb-11.5* Hct-35.1* 
MCV-91 MCH-30.0 MCHC-32.9 RDW-14.8 Plt ___
___ 08:20AM BLOOD WBC-7.1# RBC-3.34* Hgb-10.7* Hct-30.7* 
MCV-92 MCH-32.0 MCHC-34.8 RDW-14.8 Plt ___
___ 07:45AM BLOOD WBC-6.5 RBC-3.19* Hgb-9.8* Hct-29.4* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-15.3 Plt ___
___ 08:20AM BLOOD Glucose-225* UreaN-21* Creat-1.3* Na-138 
K-3.5 Cl-102 HCO3-26 AnGap-14
___ 07:45AM BLOOD Glucose-134* UreaN-13 Creat-1.0 Na-141 
K-4.4 Cl-104 HCO3-28 AnGap-13
___ 02:57PM BLOOD ALT-17 AST-26 CK(CPK)-33* AlkPhos-82 
TotBili-0.5
___ 10:40PM BLOOD cTropnT-0.01
___ 08:20AM BLOOD CK-MB-2 cTropnT-0.01
___ 02:57PM BLOOD Calcium-9.0 Phos-1.4*# Mg-1.6
___ 07:45AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.1
___ 08:00PM BLOOD Vanco-17.6
.
Imaging
___ Chest Xray
IMPRESSION: Bibasilar interstitial reticular opacities, right 
greater than 
left, concerning for infectious processes such as pneumonia. 
Radiographic 
followup in six to eight weeks following appropriate treatment 
is suggested to document resolution. 
.
___
IMPRESSION: 
1. 4.1 cm fluid collection within the gallbladder fossa which 
drapes around the lateral aspect of the liver without evidence 
of rim enhancement or gas. Differential diagnosis includes 
postoperative hematoma, seroma or contained bile leak. Despite 
the fact that this collection does not rim enhance, infection 
cannot be excluded as the patient presents with a history of 
MRSA bacteriemia of unknown etiology. This collection would be 
amenable to percutaneous sampling. 
2. Small bowel herniation into ileostomy site without evidence 
of 
obstruction. 
3. Indeterminate right adrenal nodule stable since ___. 
.
___ Ultrasound Guided Drainage of Gallbladder Fossa
IMPRESSION: Successful ultrasound-guided drainage of fluid 
collection within the gallbladder fossa. Fluid sent to 
microbiology for further analysis. 
.
___ ECHO
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with moderate to 
severe hypokinesis of the inferior and inferolateral segments. 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. No masses or vegetations are seen on the mitral valve, 
but cannot be fully excluded due to suboptimal image quality. 
Mild to moderate (___) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
a trivial/physiologic pericardial effusion. 
IMPRESSION: No endocarditis, abscess or significant valvular 
regurgitation seen. Mild regional LV systolic dysfunction with 
moderate to severe inferior and inferolateral hypokinesis. 
Diastolic dysfunction. Mild to moderate mitral regurgitation.
If clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis. 
Compared with the prior study (images reviewed) of ___, the 
function of the inferior and inferolateral walls is slightly 
improved and there is consequently less mitral regurgitation.
.
Microbiology
___ Urine Culture
  URINE CULTURE (Preliminary): 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed fecal flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      STAPH AUREUS COAG +.    >100,000 ORGANISMS/ML.. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 
         ___. ___ (___) REQUESTED SUSCEPTIBILITY ON 
___. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
               
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
NITROFURANTOIN--------    32 S
OXACILLIN-------------   =>4 R
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S
.
___ Blood Cultures
                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         SENSITIVITIES PERFORMED ON CULTURE # ___-___ ___. 

         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus and ___ species. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI. 
      IN PAIRS AND CLUSTERS.
.
___ 4:11 pm BLOOD CULTURE      Source: Venipuncture. 
   Blood Culture, Routine (Preliminary): 
      STAPH AUREUS COAG +. 
         SENSITIVITIES PERFORMED ON CULTURE # ___-___ ___. 

         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus and ___ species. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS.
.
___ 11:25 am BILE      CHOLECYSTECTOMY. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
.
___ Blood cultures pending at the time of discharge.
 
Brief Hospital Course:
Mr. ___ ___ year old man with a past medical history 
significant for CAD, hypertension, hyperlipidemia, previous 
bladder cancer and recent gallbladder CA. He is s/p liver 
resection and cholecystectomy in ___. Due for gemcitabine 
on day of admission, which was held due to new symptoms. He was 
admitted from clinic with a leukocytosis and found to have a 
bacteremia.
.
# Urinary Tract infection: Mr. ___ had a positive urine 
culture which grew MRSA. He was treated with vancomycin. 
Enterococcus was also isolated in the culture, but thought to be 
a contaminant.
.
# Sepsis - On the day of admission Mr. ___ fulfilled the 
criteria for SIRS. He was volume recusitated aggressively with 
normal saline. He was given acetaminophen for fevers and 
meperidine for rigors.  Serial blood cultures were drawn, which 
showed a high grade MRSA bacteremia.  Urine cultures also grew 
out MRSA and enterococcus.  Infectious disease and urology were 
consulted. A CT scan of the chest/abdomen/pelvis showed evidence 
of a fluid collection in the gallbladder bed.  This was drained 
by ___ and was shown to be a bilious fluid collection.  Cultures 
of this fluid showed no growth at the time of discharge. There 
was initially concern over a pneumonia based on imaging, but 
patient maintained his oxygenation and had no respiratory 
symptoms. He was initially on vancomycin and cefepime. This was 
narrowed to vancomycin. A TTE was performed which did not show 
any valvular vegetations. Based on these findings, ID 
recommended a total of 2 weeks of vancomycin therapy. A trough 
prior to discharge was within target range.
.
#Coronary artery disease - Mr. ___ has a history of diffuse 
CAD on recent catherization but no intervenable lesions. He had 
evidence of ectopy on telemetry.  The patient was chest pain 
free while rigoring. His EKG showed evidence of previous 
intraventricular conduction delay but no evidence of active 
ischemia. His metoprolol was initially held in the setting of 
his sepsis but re-started upon stabilization.
.
#Gallbladder CA - Per outpatient team his gemcitabine was held. 
He will follow up as an outpatient.
.
#Glucose intolerance - Placed on sliding scale while in the 
hospital. His Januvia was to be restarted at rehab.
.
# Hypertension - His antihypertensives were held given SIRS 
criteria. He was restarted on metoprolol and then lisinopril. 
 
Medications on Admission:
BIMATOPROST [LUMIGAN] - 0.03 % Drops - 1 qtt in each eye at
bedtime
BRIMONIDINE [ALPHAGAN P] - 0.15 % Drops - 1 gtt in each eye 
twice
a day
HYDROCHLOROTHIAZIDE - 12.5 mg Capsule - 1 Capsule(s) by mouth
once a day
LISINOPRIL - 10 mg Tablet - 1 Tablet(s) by mouth once a day
METOPROLOL TARTRATE - 25 mg Tablet - 0.5 Tablet(s) by mouth 
twice
a day
PROCHLORPERAZINE MALEATE - 10 mg Tablet - one Tablet(s) by mouth
every 6 to 8 hours as needed for as needed for nausea or 
vomiting
RANITIDINE HCL - 150 mg Tablet - 1 Tablet(s) by mouth daily
SIMVASTATIN - 40 mg Tablet - 1 Tablet(s) by mouth daily
SITAGLIPTIN [JANUVIA] - 50 mg Tablet - 1 Tablet(s) by mouth 
daily
 
Medications - OTC
ACETAMINOPHEN - 325 mg Tablet - 2 Tablet(s) by mouth twice a day
PRN
ASCORBIC ACID [VITAMIN C] - 1,000 mg Tablet - 1 Tablet(s) by
mouth once a day
ASPIRIN -  (Prescribed by Other Provider) - 81 mg Tablet, 
Delayed
Release (E.C.) - 1 Tablet(s) by mouth daily
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM+D] - 500 mg (1,250 mg)-200
unit Tablet - 1 Tablet(s) by mouth twice a day
MULTIVITAMIN -   Tablet - 1 Tablet(s) by mouth daily
VITAMIN B ___ -   Tablet - 1 Tablet(s) by mouth daily
 
Discharge Medications:
1. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Vancomycin 1,000 mg Recon Soln Sig: 1000 (1000) mg 
Intravenous every twelve (12) hours for 10 days: Continue until 
___. 1000 mg every 12 hours.  
6. Lumigan 0.03 % Drops Sig: One (1) drop Ophthalmic at bedtime: 
Place in each eye.  
7. Alphagan P 0.15 % Drops Sig: One (1) drop Ophthalmic twice a 
day: Place in each eye.  
8. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for nausea.  
9. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO four times a 
day as needed for pain.  
10. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Sitagliptin 50 mg Tablet Sig: One (1) Tablet PO once a day.  

12. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: Ten (10) ML 
Intravenous PRN (as needed) as needed for line flush.  
13. Calcium Carbonate-Vitamin D3 500 mg(1,250mg) -200 unit 
Tablet Sig: One (1) Tablet PO twice a day.  
14. Multivitamin     Capsule Sig: One (1) Capsule PO once a day. 
 
15. Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day. 
 
16. Vitamin B-100 Complex     Tablet Sig: One (1) Tablet PO once 
a day.  
17. Insulin Aspart 100 unit/mL Solution Sig: sliding scale units 
Subcutaneous four times a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Bacteremia
2. Urinary Tract Infection

Secondary Diagnosis:
1. Coronary Artery Disease
2. Gallbladder Carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thank you for allowing us to take part in your care. You were 
admitted to the hospital and found to have a bacterial infection 
in your blood and urine. While you were in the hospital, you 
were given antibiotics for your infection. 

We started a medication called vancomycin which is an 
antibiotic. You will take this for a total of two weeks.

We stopped your hydrochlorothiazide because your blood pressure 
was low. You should discuss with your doctor about when to 
restart this medication.

 
Followup Instructions:
___